US07157487B2
In xylene (5 ml), 2-bromo-5-fluorobenzothiazole (516 mg, 2.22 mmol), methyl 4-amino-3-chlorophenylacetate (444 mg, 2.22 mmol), and pyridinium•p-toluenesulfonate (PPTS) (168 mg, 0.67 mmol) were heated under reflux for 10 hours. After cooling, the reaction mixture was distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from n-hexane/ethyl acetate (7:1, v/v) eluate fractions, methyl (3-chloro-4-(5-fluoro-2-benzothiazolyl)aminophenyl)acetate (292 mg, 37%) was obtained as a pale yellow oil.

reactant | 2-bromo-5-fluorobenzothiazole | 2.22 mmol, 516 mg | BrC=1SC2=C(N1)C=C(C=C2)F | C7H3BrFNS
reactant | methyl 4-amino-3-chlorophenylacetate | 2.22 mmol, 444 mg | NC1=C(C=C(C=C1)CC(=O)OC)Cl | C9H10ClNO2
reactant | pyridinium•p-toluenesulfonate | 0.67 mmol, 168 mg | [NH+]1=CC=CC=C1.CC=1C=CC(=CC1)S(=O)(=O)O
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | methyl (3-chloro-4-(5-fluoro-2-benzothiazolyl)aminophenyl)acetate | 292 mg, 37% | ClC=1C=C(C=CC1NC=1SC2=C(N1)C=C(C=C2)F)CC(=O)OC | C16H12ClFN2O2S
